US05424280
Preparation of Methyl 2-{p-{5-[(2 -chloro-α,α,α,6 -tetrafluoro-p-tolyl)oxy]-2-nitrophenoxy}phenoxy}propionate
A mixture of 2-chloro-α,α,α,6-tetrafluoro-p-tolyl 3,4-dinitrophenyl ether (5.0 g, 0.013 mol), methyl 2-(p-hydroxyphenoxy)propionate (5.15 g, 0.026 mol) and potassium carbonate (3.6 g, 0.026 mol) in acetonitrile is refluxed for 18 hours, cooled to room temperature, poured into water and extracted with ether. The organic extract is washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a residue. Column chromatography of the residue using silica gel and methylene chloride gives an oil. A solution of the oil in ether is washed sequentially with saturated sodium hydrogen carbonate solution and water, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain the title product as a yellow oil (1.6 g) which is identified by 1HNMR and 13CNMR spectral analyses.

reactant | 2-chloro-α,α,α,6-tetrafluoro-p-tolyl 3,4-dinitrophenyl ether | 0.013 mol, 5.0 g | [N+](=O)([O-])C=1C=C(C=CC1[N+](=O)[O-])OC1=CC(=C(C(=C1)F)C(F)(F)F)Cl | C13H5ClF4N2O5
reactant | methyl 2-(p-hydroxyphenoxy)propionate | 0.026 mol, 5.15 g | OC1=CC=C(OC(C(=O)OC)C)C=C1 | C10H12O4
reactant | potassium carbonate | 0.026 mol, 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 2-{p-{5-[(2 -chloro-α,α,α,6 -tetrafluoro-p-tolyl)oxy]-2-nitrophenoxy}phenoxy}propionate | 1.6 g | ClC1=C(C(=CC(=C1)OC=1C=CC(=C(OC2=CC=C(OC(C(=O)OC)C)C=C2)C1)[N+](=O)[O-])F)C(F)(F)F | C23H16ClF4NO7
